US06511993B1
Palladium (II) acetate (300 mg, 1.34 mmol) and triphenylphosphine (708 mg, 2.70 mmol) were suspended in acetone (90 ml), and sonicated for 2 minutes. The suspension was then added to a mixture of 5-bromo-2-iodotoluene (7.9 g, 27 mmol), and the boronic acid from preparation 8 (5.7 g, 29.4 mmol) in aqueous sodium carbonate (42 ml, 2N). The reaction mixture was heated under reflux for 2 hours, then cooled and diluted with water (300 ml). This mixture was extracted with ether (2×250 ml), the combined organic extracts dried (MgSO4), filtered and evaporated in vacuo. The residue was purified by column chromatography on silica gel using hexane:ether (99:1) as eluant to give 3-(4-bromo-2-methylphenyl)phenyl tert-butyl ether, 7.9 g. A solution of this intermediate ether (480 mg, 1.5 mmol) in tetrahydrofuran (2 ml), followed by a crystal of iodine, were added to magnesium (45 mg, 1.8 mmol), and the mixture was heated under reflux for 2 hours. The solution was diluted with tetrahydrofuran (3 ml), cooled to −78° C., and a solution of the ketone from preparation 16 (425 mg, 1.4 mmol) in tetrahydrofuran (15 ml) added dropwise. The reacton mixture was stirred at −78° C. for 30 minutes, then allowed to warm to room temperature. Aqueous ammonium chloride was added, the mixture extracted with ethyl acetate (2×50 ml) and the combined organic extracts were dried (MgSO4), filtered and evaporated in vacuo. The residue was purified by column chromatography on silica gel using pentane:ethyl acetate (50:50) to afford methyl 4-[4-(4-{3-tert-butoxyphenyl}-3-methylphenyl)-4-hydroxypiperidin-1-ylsulphonyl]-tetrahydro-2H-pyran-4-carboxylate as a clear oil, 280 mg.

reactant | triphenylphosphine | 2.70 mmol, 708 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 5-bromo-2-iodotoluene | 27 mmol, 7.9 g | BrC=1C=CC(=C(C1)C)I | C7H6BrI
reactant | boronic acid | B(O)O | BH3O2
reactant | water | 300 ml | O | H2O
solvent | acetone | 90 ml | CC(=O)C | C3H6O
solvent | sodium carbonate | 2N, 42 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Palladium (II) acetate | 1.34 mmol, 300 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-(4-bromo-2-methylphenyl)phenyl tert-butyl ether | C(C)(C)(C)OC1=CC(=CC=C1)C1=C(C=C(C=C1)Br)C | C17H19BrO
